US09278973B2
To a solution of 3-methyl-1H-1,2,4-triazol-5-amine (150 mg, 1.52 mmol) in diphenyl ether (2 ml) was added ethyl 3-(1-acetyl-1H-indazol-5-yl)-3-oxopropanoate (710 mg, 2.59 mmol), TsOH (11 mg, 0.06 mmol), and the mixture was stirred for 1 h at 170° C. The resulting solution was diluted with petroleum ether (8 ml), and solids were collected by filtration and washed with ethyl ether (3 ml) to afford 5-(1-acetyl-1H-indazol-5-yl)-2-methyl-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a crude brown solid (100 mg, crude).

reactant | 3-methyl-1H-1,2,4-triazol-5-amine | 1.52 mmol, 150 mg | CC1=NNC(=N1)N | C3H6N4
reactant | ethyl 3-(1-acetyl-1H-indazol-5-yl)-3-oxopropanoate | 2.59 mmol, 710 mg | C(C)(=O)N1N=CC2=CC(=CC=C12)C(CC(=O)OCC)=O | C14H14N2O4
reactant | TsOH | 0.06 mmol, 11 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | diphenyl ether | 2 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 5-(1-acetyl-1H-indazol-5-yl)-2-methyl-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | C(C)(=O)N1N=CC2=CC(=CC=C12)C=1NC=2N(C(C1)=O)N=C(N2)C | C15H12N6O2
